US05502187
5-Acetyl-2-methoxybenzoic acid methyl ester
A mixture of 5-acetyl salicylic acid (1.46 g), DMF (10 ml), and potassium carbonate (1.1281 g) is stirred at 20°-25° while adding iodomethane (1.55 ml) via pipette. The reaction mixture is placed under a nitrogen atmosphere and stirred at 20°-25° for 65 hr. Additional iodomethane (0.76 ml) and potassium carbonate (1.14 g) were added, and the reaction is permitted to stir for another 24 hr. The reaction mixture is poured onto 35 ml of 1N hydrochloric acid and extracted with 3.35 ml portions of ether. The organic layers were combined and washed with cold water and cold sodium bicarbonate before being dried with sodium sulfate. Solvent is removed under reduced pressure giveing a solid which is placed in the oven (40°, 0.05 mm) for 24 hours to give the title compound, mp 72°-74°; NMR (CDCl3, TMS) 8.41, 8.12, 7.03, 3.98, 3.92, 2.59δ.

reactant | 5-acetyl salicylic acid | 1.46 g | C(C)(=O)C1=CC=C(C(C(=O)O)=C1)O | C9H8O4
reactant | potassium carbonate | 1.1281 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.55 ml | IC | CH3I
reactant | iodomethane | 0.76 ml | IC | CH3I
reactant | potassium carbonate | 1.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 35 ml | Cl | ClH
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Acetyl-2-methoxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)C(C)=O)OC)=O | C11H12O4
